US06740676B2
Tert-butyl-4-benzyloxy-2-fluoro-phenyl acetate (Compound 13)
A solution of 4-benzyloxy-2-fluoro-phenyl acetic acid (6.5 g, 25 mmol) in anhydrous toluene was heated to 80° C. under argon, then treated with N,N-dimethyl formamide-di-t-butyl acetal (22 mL, 91.75 mmol). After 1 h, the reaction mixture was cooled to ambient temperature, diluted with water and extracted with diethyl ether (×2). The combined organic phase was dried over anhydrous magnesium sulfate, filtered and evaporated in vacuo to afford a residue which after flash column chromatography over silica gel (230-400 mesh) using 10% ethyl acetate in hexane as the eluent afforded the title compound (2.2 g, 28%) and some recovered starting material (1.6 g, 25%).

reactant | 4-benzyloxy-2-fluoro-phenyl acetic acid | 25 mmol, 6.5 g | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)CC(=O)O)F | C15H13FO3
reactant | N,N-dimethyl formamide-di-t-butyl acetal | 91.75 mmol, 22 mL | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | hexane | CCCCCC | C6H14
product | Tert-butyl-4-benzyloxy-2-fluoro-phenyl acetate | 2.2 g, 28% | C(C)(=O)OC1=C(C(=C(C=C1)OCC1=CC=CC=C1)C(C)(C)C)F | C19H21FO3
